US08071581B2
Compound 108; 6-(1-Methyl-1H-pyrazol-4-yl)-3-(1H-pyrrolo[2,3-b]pyridine-3-ylmethyl)-[1,2,4]triazolo[4,3-b]pyridazine
To a 20 ml vial 52 mgs (0.295 mmol) of (1H-pyrrolo[2,3-b]pyridine-3-yl)-acetic acid, 1.2 eq. (0.354 mmol) of 0-(7-azabenzotriazole-1-yl)-N,N,N,N′-tetramethyluroniumhexafluoro-phosphate, 1.5 eq. (0.443 mmol) [6-(1-methyl-1H-pyrazol-4-yl)-pyridazin-3-yl]-hydrazine and 4 eq. (1.18 mmol) N,N-diisopropylethylamine were added and dissolved in 4 mls of dimethyl-formamide. The reaction mixture was stirred at room temperature for 18 h. After such time the dimethylformamide was removed in vacuo and acetic acid (4 mls) was added to the residue and heated to 60° C. for 4 hours. The solvent was removed in vacuo purification via preparative HPLC eluting with dichloromethane:methanol 95:5 returned the title compound (3 mgs, 3% yield) as an off white solid. Analytical data presented in Table 1.

reactant | (1H-pyrrolo[2,3-b]pyridine-3-yl)-acetic acid | 0.295 mmol, 52 mgs | N1C=C(C=2C1=NC=CC2)CC(=O)O | C9H8N2O2
reactant | [6-(1-methyl-1H-pyrazol-4-yl)-pyridazin-3-yl]-hydrazine | 0.443 mmol, 1.5 eq. | CN1N=CC(=C1)C1=CC=C(N=N1)NN | C8H10N6
reactant | N,N-diisopropylethylamine | 1.18 mmol, 4 eq. | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethyl-formamide | 4 mls | CN(C=O)C | C3H7NO
product | 6-(1-Methyl-1H-pyrazol-4-yl)-3-(1H-pyrrolo[2,3-b]pyridine-3-ylmethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 3 mgs, 3% yield | CN1N=CC(=C1)C=1C=CC=2N(N1)C(=NN2)CC2=CNC1=NC=CC=C12 | C17H14N8
